US04356176
The solution of 2.8 g of 2-(o-bromomethylphenyl)-5-chlorobenzophenone in 20 ml of tetrahydrofuran is added dropwise to the solution of 130 ml of saturated ethanolic ammonia while stirring. After 2 days' standing at room temperature the mixture is evaporated, the residue taken up in methylene chloride, the solution washed with aqueous sodium carbonate, dried, evaporated and the residue crystallized from methanol to give the 9-chloro-7-phenyl-5H-dibenz[c,e]azepine melting at 118°-119°.

reactant | 2-(o-bromomethylphenyl)-5-chlorobenzophenone | 2.8 g | BrCC1=C(C=CC=C1)C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C20H14BrClO
reactant | ammonia | 130 ml | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 9-chloro-7-phenyl-5H-dibenz[c,e]azepine | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)C=CC=C3)C=C1 | C20H14ClN
